US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.107 g, 0.3 mmol), 1-methyl 3-phenyl-propylamine (0.065 g, 0.4 mmol), and K2CO3 (0.083 g, 0.6 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-iodo-2-(1-methyl-3-phenyl-propyl)-2,3-dihydro-isoindol-1-one (0.098 g, 84%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.32 (d, 3H), 1.94 (m, 2H), 2.54-2.78 (m, 2H), 4.21 (dd, 2H), 4.64 (q, 1H), 7.12-7.24 (m, 6H), 7.41 (d, 1H), 7.88 (d, 1H). GC-MS: m/z 391 (M)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.3 mmol, 0.107 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 1-methyl 3-phenyl-propylamine | 0.4 mmol, 0.065 g | CC(CCC1=CC=CC=C1)N | C10H15N
reactant | K2CO3 | 0.6 mmol, 0.083 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-iodo-2-(1-methyl-3-phenyl-propyl)-2,3-dihydro-isoindol-1-one | 0.098 g, 84% | IC=1C=CC=C2CN(C(C12)=O)C(CCC1=CC=CC=C1)C | C18H18INO
